US07238808B2
5-[6-(4-Trifluoromethyl-phenyl)-imidazo [1,2-a]pyridin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.24) (300 mg, 1.0 mmol) and commercially available 2-amino-5-iodopyridine (230 mg, 1.0 mmol) according to general procedure II. Obtained as a white solid (210 mg, 53%). MS (ISP) 379.2 [(M+H)+]; mp 241–244° C.

reactant | 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1.0 mmol, 300 mg | C(#C)C1=CN=C2N1C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C16H9F3N2
reactant | 2-amino-5-iodopyridine | 1.0 mmol, 230 mg | NC1=NC=C(C=C1)I | C5H5IN2
product | 5-[6-(4-Trifluoromethyl-phenyl)-imidazo [1,2-a]pyridin-3-ylethynyl]-pyridin-2-ylamine | FC(C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C#CC=2C=CC(=NC2)N)(F)F | C21H13F3N4
